US08076354B2
Preparation of 3-Iodo-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester
To a solution of methyl imidazo[1,2-a]pyridine-7-carboxylate (1 g, 5.68 mmol) in DMF (30 ml) was added N-iodosuccinimide (1.53 g, 1.2 equiv) and the resulting mixture was stirred for 2 h at room temperature. The thin brown slurry was diluted with water, 10% w/v sodium thiosulfate and sodium carbonate (1M) and extracted with CH2Cl2. The aqueous was further extracted with CH2Cl2. The combined organic phases were washed with brine (280 ml), dried (MgSO4) and concentrated in vacuo to give a brown residue. The residue was triturated with ether, filtered and the solid was washed ether (2×50 ml) and dried on the filter to give the product as a white solid (0.81 g). 1H NMR (400 MHz, Me-d3-OD): 8.44 (1H, d), 8.25 (1H, s), 7.88 (1H, s), 7.61 (1H, dd), 3.95 (3H, s). MS: [M+H]+ 303.

reactant | methyl imidazo[1,2-a]pyridine-7-carboxylate | 5.68 mmol, 1 g | N=1C=CN2C1C=C(C=C2)C(=O)OC | C9H8N2O2
reactant | N-iodosuccinimide | 1.53 g, 1.2 equiv | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Iodo-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 0.81 g | COC(=O)C1=CC=2N(C=C1)C(=CN2)I | C9H7IN2O2
